US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-pyrrolidin-1-yl-propyl)-1H-imidazol-4-yl]-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-oxo-propyl)-1H-imidazol-4-yl]-amide was reacted with pyrrolidine to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 18.9, 23.6, 28.4, 28.7, 36.0, 42.1, 43.2, 51.3, 53.1, 54.4, 57.5, 103.0, 105.3, 112.4, 112.6, 131.2, 137.8, 169.0, 169.2. MS m/z 476.2 (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-oxo-propyl)-1H-imidazol-4-yl]-amide | CC(CC=O)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H26F2N4O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-pyrrolidin-1-yl-propyl)-1H-imidazol-4-yl]-amide | CC(CCN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C25H35F2N5O2
